US07223766B2
A suspension of 2-(5-chloro-2-fluorophenyl)-5,6,7,8-tetrahydroquinazolin-4-ol (500 mg, 1.89 mmol) in POCl3 (6 ml) was stirred under reflux for 1 h. The solution was then cooled to room temperature and concentrated under reduced pressure to afford a white solid which was dissolved in methylene chloride. The solution was cooled to 0° C. and ice was added followed by sat. NaHCO3. The organic layer was separated, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to provide a crude white solid 4-Chloro-2-(5-chloro-2-fluorophenyl)-5,6,7,8-tetrahydroquinazoline which was not further purified.

reactant | 2-(5-chloro-2-fluorophenyl)-5,6,7,8-tetrahydroquinazolin-4-ol | 1.89 mmol, 500 mg | ClC=1C=CC(=C(C1)C1=NC=2CCCCC2C(=N1)O)F | C14H12ClFN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 6 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(5-chloro-2-fluorophenyl)-5,6,7,8-tetrahydroquinazoline | ClC1=NC(=NC=2CCCCC12)C1=C(C=CC(=C1)Cl)F | C14H11Cl2FN2
